US04472434
104 g (0.75 Mol) of 4-nitrophenol are dissolved in 420 ml (4.5 Mol) acetic acid vinyl ester. After washing with nitrogen, successively 3.0 g mercury acetate and 0.2 ml BF3 -etherate are added. The reaction mixture is stirred for 4 hours at 50° C. After cooling, 2 g sodium acetate are added, evaporated, and the residue then dissolved in ether. There follows washing three times with 2 n-caustic soda, three times with water, drying and evaporation. The residue is recrystallized from ether. 65 g (52% of theoretical amount) of 4-nitrophenylvinylether are obtained, with a melting point of 59°-61° C.

reactant | 4-nitrophenol | 0.75 Mol, 104 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | acetic acid vinyl ester | 4.5 Mol, 420 ml | C(=C)OC(C)=O | C4H6O2
product | 4-nitrophenylvinylether | 65 g, 52% | [N+](=O)([O-])C1=CC=C(C=C1)C=COC=CC1=CC=C(C=C1)[N+](=O)[O-] | C16H12N2O5
